US05834506
[4-(Cyanothio)-5-(1,1-dimethylethyl)-2-methylphenyl]-imidodicarbonic acid bis(1,1-dimethylethyl) ester
A solution of 5-tert-butyl-2-methyl-4-thiocyanato-phenylamine (8.0 g, 36.36 mmol) (prepared in Example DDDD) and di-tert-butyl dicarbonate (31.7 g, 145.3 mmol) in THF (80 mL) was stirred at 60° C. under N2 overnight. Solvent was then removed in vacuo and Et2O added; the solution was washed with saturated NaHCO3 solution and brine, dried (Na2SO4), filtered and concentrated. The material was purified by flash chromatography on silica gel, eluting with 4:1 hexanes:EtOAc to 1:1 hexanes:EtOAc to afford the title compound. 1H NMR (CDCl3) δ 1.41 (s, 9 H), 1.43 (s, 3 H), 1.52 (s, 18 H), 7.14 (s, 1 H), 7.58 (s, 1 H).

reactant | 5-tert-butyl-2-methyl-4-thiocyanato-phenylamine | 36.36 mmol, 8.0 g | C(C)(C)(C)C=1C(=CC(=C(C1)N)C)SC#N | C12H16N2S
reactant | di-tert-butyl dicarbonate | 145.3 mmol, 31.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | [4-(Cyanothio)-5-(1,1-dimethylethyl)-2-methylphenyl]-imidodicarbonic acid bis(1,1-dimethylethyl) ester | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=C(C=C(C(=C1)C(C)(C)C)SC#N)C | C22H32N2O4S
